### PR TITLE
[Merged by Bors] - feat(Finset/{NAry,Pointwise}): add lemmas about `Finset.sup` etc

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/NAry.lean [hunk 1]
```diff
@@ -249,8 +249,34 @@ theorem subset_image₂ {s : Set α} {t : Set β} (hu : ↑u ⊆ image2 f s t) :
           h.trans <| image₂_subset (subset_insert _ _) <| subset_insert _ _⟩⟩
 #align finset.subset_image₂ Finset.subset_image₂
 
+@[simp (default + 1)]
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/NAry.lean:252]: Can you leave a comment explaining the higher priority?

File: Mathlib/Data/Finset/NAry.lean
Comment (YaelDillies) [inline Mathlib/Data/Finset/NAry.lean:1]: Can we have `Finset.sup'` and `Finset.inf'` lemmas too?

File: Mathlib/Data/Finset/Pointwise.lean
Comment (YaelDillies) [inline Mathlib/Data/Finset/Pointwise.lean:1]: Same here, can you make sure we have the corresponding `sup'`/`inf'` lemmas?

File: Mathlib/Data/Finset/NAry.lean
Comment (urkud) [reply Mathlib/Data/Finset/NAry.lean:1]: I would prefer to do it in a different PR because I'll need to change some `Finset.Nonempty` assumptions in the dependencies.

Comment (YaelDillies) [reply Mathlib/Data/Finset/NAry.lean:1]: Okay cool, so long as you actually open that PR.

File: Mathlib/Data/Finset/NAry.lean [hunk 2]
```diff
@@ -231,8 +231,34 @@ theorem image₂_congr' (h : ∀ a b, f a b = f' a b) : image₂ f s t = image
...
+
+@[simp (default + 1)] -- otherwise `simp` doesn't use `forall_image₂_iff`
+lemma le_inf_image₂ [SemilatticeInf δ] [OrderTop δ] {g : γ → δ} {a : δ} :
+    a ≤ inf (image₂ f s t) g ↔ ∀ x ∈ s, ∀ y ∈ t, a ≤ g (f x y) :=
+  sup_image₂_le (δ := δᵒᵈ)
+
 variable (s t)
 
+lemma sup_image₂_left [SemilatticeSup δ] [OrderBot δ] (g : γ → δ) :
+    sup (image₂ f s t) g = sup s fun x ↦ sup t (g ∘ f x) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/NAry.lean:247]:
```suggestion
    sup (image₂ f s t) g = sup s fun x ↦ sup t (g <| f x ·) := by
```
is better I would think since it does eta-reduce your functions.

File: Mathlib/Data/Finset/Pointwise.lean [hunk 3]
```diff
@@ -169,18 +168,41 @@ theorem singletonOneHom_apply (a : α) : singletonOneHom a = {a} :=
...
+lemma max_one [LinearOrder α] : Finset.max (1 : Finset α) = 1 := rfl
+
+@[to_additive (attr := simp)]
+lemma min_one [LinearOrder α] : Finset.min (1 : Finset α) = 1 := rfl
+
+@[to_additive (attr := simp)]
+lemma max'_one [LinearOrder α] : Finset.max' (1 : Finset α) one_nonempty = 1 := rfl
+
+@[to_additive (attr := simp)]
+lemma min'_one [LinearOrder α] : Finset.min' (1 : Finset α) one_nonempty = 1 := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Pointwise.lean:200]: Can't you use dot notation here?

File: Mathlib/Data/Finset/Pointwise.lean [hunk 4]
```diff
@@ -261,6 +283,26 @@ theorem inv_insert (a : α) (s : Finset α) : (insert a s)⁻¹ = insert a⁻¹
...
+    sup' s⁻¹ hs f = sup' s (.of_inv hs) fun x ↦ f x⁻¹ :=
+  sup'_image ..
+
+@[to_additive (attr := simp)]
+lemma inf_inv [SemilatticeInf β] [OrderTop β] (s : Finset α) (f : α → β) :
+    inf s⁻¹ f = inf s fun x ↦ f x⁻¹ :=
+  inf_image ..
+
+@[to_additive (attr := simp)]
+lemma inf'_inv [SemilatticeInf β] {s : Finset α} (hs : (s⁻¹).Nonempty) (f : α → β) :
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Pointwise.lean:302]:
```suggestion
lemma inf'_inv [SemilatticeInf β] {s : Finset α} (hs : s⁻¹.Nonempty) (f : α → β) :
```

File: Mathlib/Data/Finset/Pointwise.lean [hunk 5]
```diff
@@ -261,6 +283,26 @@ theorem inv_insert (a : α) (s : Finset α) : (insert a s)⁻¹ = insert a⁻¹
...
+    inf' s⁻¹ hs f = inf' s (.of_inv hs) fun x ↦ f x⁻¹ :=
+  inf'_image ..
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Pointwise.lean:304]: For rewriting purposes, can we have the same lemma reversed assuming `s.Nonempty`?

File: Mathlib/Data/Finset/NAry.lean [hunk 6]
```diff
@@ -231,8 +231,64 @@ theorem image₂_congr' (h : ∀ a b, f a b = f' a b) : image₂ f s t = image
...
+  simp only [image₂, sup_image, sup_product_right]; rfl
+
+lemma inf_image₂_left [SemilatticeInf δ] [OrderTop δ] (g : γ → δ) :
+    inf (image₂ f s t) g = inf s fun x ↦ inf t (g ∘ f x) :=
+  sup_image₂_left (δ := δᵒᵈ) ..
+
+lemma inf_image₂_right [SemilatticeInf δ] [OrderTop δ] (g : γ → δ) :
+    inf (image₂ f s t) g = inf t fun y ↦ inf s (g <| f · y) :=
+  sup_image₂_right (δ := δᵒᵈ) ..
+
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/NAry.lean:291]: Mind making all of this into two new `SemiLatticeSup` and `SemilatticeInf` sections at the end of the file?

File: Mathlib/Data/Finset/Pointwise.lean [hunk 7]
```diff
@@ -260,6 +282,26 @@ theorem inv_insert (a : α) (s : Finset α) : (insert a s)⁻¹ = insert a⁻¹
 #align finset.inv_insert Finset.inv_insert
 #align finset.neg_insert Finset.neg_insert
 
+@[to_additive (attr := simp)]
+lemma sup_inv [SemilatticeSup β] [OrderBot β] (s : Finset α) (f : α → β) :
+    sup s⁻¹ f = sup s (f ·⁻¹) :=
+  sup_image ..
+
+@[to_additive (attr := simp)]
+lemma sup'_inv [SemilatticeSup β] {s : Finset α} (hs : (s⁻¹).Nonempty) (f : α → β) :
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Pointwise.lean:291]:
```suggestion
lemma sup'_inv [SemilatticeSup β] {s : Finset α} (hs : s⁻¹.Nonempty) (f : α → β) :
```

File: Mathlib/Data/Finset/NAry.lean (hunk 6 above)
Comment (urkud) [reply Mathlib/Data/Finset/NAry.lean]: Done.

File: Mathlib/Data/Finset/Pointwise.lean [hunk 8]
```diff
@@ -520,11 +562,40 @@ def imageMulHom : Finset α →ₙ* Finset β where
...
+
+@[to_additive]
+lemma inf_mul_left [SemilatticeInf β] [OrderTop β] (s t : Finset α) (f : α → β) :
+    inf (s * t) f = inf s fun x ↦ inf t (f <| x * ·) :=
+  inf_image₂_left ..
+
+@[to_additive]
+lemma inf_mul_right [SemilatticeInf β] [OrderTop β] (s t : Finset α) (f : α → β) :
+    inf (s * t) f = inf t fun y ↦ inf s (f <| · * y) :=
+  inf_image₂_right ..
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Pointwise.lean:593]:
```suggestion
@[to_additive (attr := simp (default + 1))]
lemma sup_mul_le [SemilatticeSup β] [OrderBot β] {s t : Finset α} {f : α → β} {a : β} :
    sup (s * t) f ≤ a ↔ ∀ x ∈ s, ∀ y ∈ t, f (x * y) ≤ a :=
  sup_image₂_le

@[to_additive]
lemma sup_mul_left [SemilatticeSup β] [OrderBot β] (s t : Finset α) (f : α → β) :
    sup (s * t) f = sup s fun x ↦ sup t (f <| x * ·) :=
  sup_image₂_left ..

@[to_additive]
lemma sup_mul_right [SemilatticeSup β] [OrderBot β] (s t : Finset α) (f : α → β) :
    sup (s * t) f = sup t fun y ↦ sup s (f <| · * y) :=
  sup_image₂_right ..

@[to_additive (attr := simp (default + 1))]
lemma le_inf_mul [SemilatticeInf β] [OrderTop β] {s t : Finset α} {f : α → β} {a : β} :
    a ≤ inf (s * t) f ↔ ∀ x ∈ s, ∀ y ∈ t, a ≤ f (x * y) :=
  le_inf_image₂

@[to_additive]
lemma inf_mul_left [SemilatticeInf β] [OrderTop β] (s t : Finset α) (f : α → β) :
    inf (s * t) f = inf s fun x ↦ inf t (f <| x * ·) :=
  inf_image₂_left ..

@[to_additive]
lemma inf_mul_right [SemilatticeInf β] [OrderTop β] (s t : Finset α) (f : α → β) :
    inf (s * t) f = inf t fun y ↦ inf s (f <| · * y) :=
  inf_image₂_right ..
```

File: Mathlib/Data/Finset/Pointwise.lean [hunk 9]
```diff
@@ -709,6 +780,36 @@ theorem subset_div {s t : Set α} :
...
+
+@[to_additive]
+lemma inf_div_left [SemilatticeInf β] [OrderTop β] (s t : Finset α) (f : α → β) :
+    inf (s / t) f = inf s fun x ↦ inf t (f <| x / ·) :=
+  inf_image₂_left ..
+
+@[to_additive]
+lemma inf_div_right [SemilatticeInf β] [OrderTop β] (s t : Finset α) (f : α → β) :
+    inf (s / t) f = inf t fun y ↦ inf s (f <| · / y) :=
+  inf_image₂_right ..
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Pointwise.lean:811]:
```suggestion
@[to_additive (attr := simp (default + 1))]
lemma sup_div_le [SemilatticeSup β] [OrderBot β] {s t : Finset α} {f : α → β} {a : β} :
    sup (s / t) f ≤ a ↔ ∀ x ∈ s, ∀ y ∈ t, f (x /  y) ≤ a :=
  sup_image₂_le

@[to_additive]
lemma sup_div_left [SemilatticeSup β] [OrderBot β] (s t : Finset α) (f : α → β) :
    sup (s / t) f = sup s fun x ↦ sup t (f <| x / ·) :=
  sup_image₂_left ..

@[to_additive]
lemma sup_div_right [SemilatticeSup β] [OrderBot β] (s t : Finset α) (f : α → β) :
    sup (s / t) f = sup t fun y ↦ sup s (f <| · / y) :=
  sup_image₂_right ..

@[to_additive (attr := simp (default + 1))]
lemma le_inf_div [SemilatticeInf β] [OrderTop β] {s t : Finset α} {f : α → β} {a : β} :
    a ≤ inf (s / t) f ↔ ∀ x ∈ s, ∀ y ∈ t, a ≤ f (x / y) :=
  le_inf_image₂

@[to_additive]
lemma inf_div_left [SemilatticeInf β] [OrderTop β] (s t : Finset α) (f : α → β) :
    inf (s / t) f = inf s fun x ↦ inf t (f <| x / ·) :=
  inf_image₂_left ..

@[to_additive]
lemma inf_div_right [SemilatticeInf β] [OrderTop β] (s t : Finset α) (f : α → β) :
    inf (s / t) f = inf t fun y ↦ inf s (f <| · / y) :=
  inf_image₂_right ..
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Comment by ocfnash** [comment]
bors merge
